US05081131
N-(3-(5-(2-Biphenylyl)-1,3,4-thiadiazol-2-yl)propyl)benz(cd)indol-2-amine
A solution of 3-(5-(2-biphenylyl)-1,3,4-thiadiazol-2-yl)propanamine in ethanol is treated with 2-methylthiobenz(cd)indole hydriodide by the conditions of Example 52. Neutralization yields the title compound.

reactant | 3-(5-(2-biphenylyl)-1,3,4-thiadiazol-2-yl)propanamine | C1(=C(C=CC=C1)C1=NN=C(S1)CCCN)C1=CC=CC=C1 | C17H17N3S
reactant | 2-methylthiobenz(cd)indole hydriodide | I.CSC1=NC2=CC=CC=3C2=C1C=CC3
solvent | ethanol | C(C)O | C2H6O
product | N-(3-(5-(2-Biphenylyl)-1,3,4-thiadiazol-2-yl)propyl)benz(cd)indol-2-amine | C1(=C(C=CC=C1)C1=NN=C(S1)CCCNC1=NC2=CC=CC=3C2=C1C=CC3)C3=CC=CC=C3 | C28H22N4S
